US08044206B2
454 μl of 37% aqueous formaldehyde solution and 175 μl of acetic acid were added to a solution of 219 mg of (2-{4-[(E)-2-(2,6-dimethylphenyl)vinyl]piperidin-1-yl}-2-oxoethyl)tetrahydro-2H-pyran-4-ylamine in 5 ml of dichloroethane, followed by stirring at ambient temperature for 2 hours. Subsequently, 388 mg of sodium triacetoxyborohydride was added to the reaction mixture, followed by stirring at ambient temperature for 1 hour. Saturated aqueous sodium hydrogencarbonate solution and chloroform were added to the mixture, then the organic layer was fractionated and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol-ammonia water). The resulting oil was dissolved in 5 ml of ethanol, and 172 μl of 4N hydrochloric acid-ethyl acetate was added to the mixture. The solvent was evaporated under reduced pressure. The residue was crystallized from 2-propanol-diisopropyl ether. The crystals were recrystallized from 2-propanol-diisopropyl ether to give 201 mg of (2-{4-[(E)-2-(2,6-dimethylphenyl)vinyl]piperidin-1-yl}-2-oxoethyl)methyl(tetrahydro-2H-pyran-4-yl)amine monohydrochloride.

reactant | formaldehyde | 454 μl | C=O | CH2O
reactant | (2-{4-[(E)-2-(2,6-dimethylphenyl)vinyl]piperidin-1-yl}-2-oxoethyl)tetrahydro-2H-pyran-4-ylamine | 219 mg | CC1=C(C(=CC=C1)C)/C=C/C1CCN(CC1)C(CNC1CCOCC1)=O | C22H32N2O2
reactant | sodium triacetoxyborohydride | 388 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 175 μl | C(C)(=O)O | C2H4O2
product | (2-{4-[(E)-2-(2,6-dimethylphenyl)vinyl]piperidin-1-yl}-2-oxoethyl)methyl(tetrahydro-2H-pyran-4-yl)amine monohydrochloride | 201 mg | Cl.CC1=C(C(=CC=C1)C)/C=C/C1CCN(CC1)C(CN(C1CCOCC1)C)=O | InChI=1S/C23H34N2O2.ClH/c1-18-5-4-6-19(2)22(18)8-7-20-9-13-25(14-10-20)23(26)17-24(3)21-11-15-27-16-12-21;/h4-8,20-21H,9-17H2,1-3H3;1H/b8-7+;
